US09193692B2
A. 6-Bromo-4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-benzo[d]imidazole
6-Bromo-4-methyl-1H-benzo[d]imidazole (1.02 g, 4.83 mmol) was dissolved in tetrahydrofuran (10 mL) at room temperature with stirring under nitrogen. 3,4-Dihydro-2H-pyran (3.5 mL, 38.4 mmol) and methanesulfonic acid (0.032 mL, 0.48 mmol) were added and the resulting mixture heated at 75° C. for 49 h. The resulting mixture was cooled to room temperature, diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate and brine. The organics were dried over magnesium sulfate, filtered and concentrated under reduced pressure. Flash chromatography (50-100% ethyl acetate in hexanes) gave the desired product (1.32 g, 4.47 mmol, 93% yield) as a light yellow solid. MS (ESI) m/z 295.1 [M]+, 297.3 [M+2]+.

reactant | 6-Bromo-4-methyl-1H-benzo[d]imidazole | 4.83 mmol, 1.02 g | BrC=1C=C(C2=C(NC=N2)C1)C | C8H7BrN2
reactant | 3,4-Dihydro-2H-pyran | 38.4 mmol, 3.5 mL | O1CCCC=C1 | C5H8O
reactant | methanesulfonic acid | 0.48 mmol, 0.032 mL | CS(=O)(=O)O | CH4O3S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-4-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-benzo[d]imidazole | 4.47 mmol, 1.32 g, 93% yield | BrC=1C=C(C2=C(N(C=N2)C2OCCCC2)C1)C | C13H15BrN2O
